US04065622
B. α-[2-(t-Butoxycarbonylaminomethyl)-1,4-cyclohexadienyl]-acetic acid
To a stirred solution of 8.0 g. (0.048 mole) of α-(2-aminomethyl-1,4-cyclohexadienyl)acetic acid and 3.8 g. (0.096 mole) of NaOH in 150 ml. of water was added a solution of 10.3 g. (0.072 mole) of t-butoxycarbonylazide in 80 ml. of THF and the mixture was stirred for 18 hours at room temperature. The THF was removed under reduced pressure and the residual solution was washed with ether (2 × 100 ml.), acidified with 6 N HCl and extracted with ether (3 × 100 ml.). The combined extracts were washed with water (2 × 100 ml.) and a saturated NaCl solution (100 ml.), dried with Na2SO4 and evaporated to dryness. The oily residue was triturated with n-hexane to give 10.5 g. (82%) of colorless powder melting at 113° C.

reactant | α-(2-aminomethyl-1,4-cyclohexadienyl)acetic acid | 0.048 mole | NCC1=C(CC=CC1)CC(=O)O | C9H13NO2
reactant | NaOH | 0.096 mole | [OH-].[Na+]
reactant | water | O | H2O
reactant | t-butoxycarbonylazide | 0.072 mole | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
solvent | THF | C1CCOC1 | C4H8O
product | α-[2-(t-Butoxycarbonylaminomethyl)-1,4-cyclohexadienyl]-acetic acid | C(C)(C)(C)OC(=O)NCC1=C(CC=CC1)CC(=O)O | C14H21NO4
